US09119868B2
Step 4: 5-Cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide
To bis(pinacolato)diboron (103 mg, 0.404 mmol), [bis(diphenylphosphino)ferrocene]dichloropalladium(III) complex (33.0 mg, 0.040 mmol) and potassium acetate (39.7 mg, 0.404 mmol) under a nitrogen atmosphere was added 5-cyclopropyl-2-(4-fluorophenyl)-6-(N-(4-iodo-3-methylphenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide (50 mg, 0.081 mmol) and 1,4-dioxane (2 mL) and stirred for 12 h at 80° C. The product and de-iodo product were formed in 80:20 ratio. The mixture was diluted with water and extracted with ethyl acetate (20 mL). Ethyl acetate solution was dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude was purified by RP-HPLC (ACN/Water/0.1% formic acid) to provide the title compound in 5% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm: 8.44-8.56 (m, 1H), 7.90-8.05 (m, 3H), 7.60 (d, J=8.0 Hz, 1H), 7.41 (t, J=8.9 Hz, 2H), 7.12-7.25 (m, 3H), 6.77 (s, OH), 2.84 (d, J=4.5 Hz, 3H), 2.42 (s, 3H), 1.28 (s, 12H), 0.98 (br. s., 1H), 0.79 (br. s., 2H), 0.51 (br. s., 1H). LCMS (m/z, ES+)=619 (M+H+).

reactant | bis(pinacolato)diboron | 0.404 mmol, 103 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.404 mmol, 39.7 mg | C(C)(=O)[O-].[K+]
reactant | 5-cyclopropyl-2-(4-fluorophenyl)-6-(N-(4-iodo-3-methylphenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | 0.081 mmol, 50 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)I)C | C27H24FIN2O4S
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-Cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide | 5% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C33H36BFN2O6S
